US04066616
Manufacture of N-[2-hydroxy-3-(3-methyl-5-tert.-butyl-4-hydroxyphenyl)-propyl]-succinimide
A solution of 6.6 g (0.03 mol) of 3-methyl-5-tert.-butyl-4-hydroxybenzyl-oxirane and 3 g (0.03 mol) of succinimide in 30 ml of dimethylformamide is stirred for 18 hours at a temperature of 150°-55° C whilst passing a slight stream of nitrogen through the mixture. After cooling to room temperature, the reaction mixture is poured into 150 ml of water and the oily reaction product which precipitates is dissolved in toluene. Successive extraction of the toluene phase with dilute hydrochloric acid, 5% strength aqueous sodium bicarbonate solution and water, drying over sodium sulphate and evaporation of the solvent gives the crude product. After recrystallisation from methylcellosolve, 6.5 g (68% of theory) of N-[2-hydroxy-3-(3-methyl-5-tert.-butyl-4-hydroxyphenyl)-propyl]-succinimide of melting point 217.5°-218° C are obtained in the form of colourless crystals.

reactant | 3-methyl-5-tert.-butyl-4-hydroxybenzyl-oxirane | 0.03 mol, 6.6 g | CC=1C=C(CC2OC2)C=C(C1O)C(C)(C)C | C14H20O2
reactant | succinimide | 0.03 mol, 3 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-[2-hydroxy-3-(3-methyl-5-tert.-butyl-4-hydroxyphenyl)-propyl]-succinimide | OC(CN1C(CCC1=O)=O)CC1=CC(=C(C(=C1)C(C)(C)C)O)C | C18H25NO4
